US07074801B1
A solution of 1.01 g 2-fluoro-4-methylsulfanyl phenol (compound in Production Example D088), 1.28 g t-butyl 4-hydroxy-1-piperidinecarboxylate, 2.5 g triphenylphosphine and 4.2 g diethyl azodicarboxylate (40% toluene solution) in anhydrous tetrahydrofuran (30 mL) was heated for 8 hours under reflux in a stream of nitrogen. Water was added thereto, the reaction mixture was extracted with ethyl acetate, and the extract was dried over sodium sulfate and purified by silica gel chromatography (hexane/ethyl acetate) to give 1.41 g t-butyl 4-(2-fluoro-4-methylsulfanylphenoxy)piperidine-1-carboxylate. 5 mL of 4 N hydrogen chloride in ethyl acetate was added to this product and left for 1 hour. The solvent was removed, and the precipitated crystals were washed with ethyl acetate-ether to give 780 mg of the title compound as colorless crystals.

reactant | 2-fluoro-4-methylsulfanyl phenol | 1.01 g | FC1=C(C=CC(=C1)SC)O | C7H7FOS
reactant | t-butyl 4-hydroxy-1-piperidinecarboxylate | 1.28 g | OC1CCN(CC1)C(=O)OC(C)(C)C | C10H19NO3
reactant | triphenylphosphine | 2.5 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 4.2 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | Water | O | H2O
product | t-butyl 4-(2-fluoro-4-methylsulfanylphenoxy)piperidine-1-carboxylate | 1.41 g | FC1=C(OC2CCN(CC2)C(=O)OC(C)(C)C)C=CC(=C1)SC | C17H24FNO3S
